US05817671
5-(N-[2-trifluoromethylbenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.010 gm (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.008 mL (0.053 mMol) 2-trifluoromethylbenzoyl chloride, 0.017 gm (96%) of the title compound were prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.044 mMol, 0.010 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 2-trifluoromethylbenzoyl chloride | 0.053 mMol, 0.008 mL | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | 5-(N-[2-trifluoromethylbenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.017 gm, 96% | FC(C1=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCN(CC3)C)C=CC=C1)(F)F | C21H21F3N4O
